US05036068
A mixture of 1 g of 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-2H-1,3-benzoxazine, 10 ml of acetic anhydride and 10 ml of pyridine is left to stand at 20° for 16 hours. The mixture is evaporated, and the residue is purified by chromatography to give 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-acetamido-2H-1,3-benzoxazine.

reactant | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-2H-1,3-benzoxazine | 1 g | CC1(OC2=C(C(=N1)N1C(C=CC=C1)=O)C=C(C=C2)N)C | C15H15N3O2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-acetamido-2H-1,3-benzoxazine | CC1(OC2=C(C(=N1)N1C(C=CC=C1)=O)C=C(C=C2)NC(C)=O)C | C17H17N3O3
